US06632826B1
A solution of 4-benzyl-5-(2-methoxycarbonyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.81 g, 3.94 mmol) in dry tetrahydrofuran (24 ml) was treated with 1M aqueous lithium hydroxide solution (8 ml 7.88 mM). The resulting mixture was stirred at room temperature for 6 hours then diluted with ethyl acetate, washed with a 1:1 mixture of brine and 1 M hydrochloric acid, dried (anhydrous magnesium sulfate) and concentrated in vacuo to give 4-benzyl-5-(2-carboxy-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.66 g, 95%) as a yellow oil which was used in the next step without further purification.

reactant | 4-benzyl-5-(2-methoxycarbonyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.94 mmol, 1.81 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)=O)C(=O)OC)(C)C | C26H37NO6
reactant | lithium hydroxide | 1M, 8 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-benzyl-5-(2-carboxy-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.66 g, 95% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)=O)C(=O)O)(C)C | C25H35NO6
